US04533656
Powdered activated 4 Å molecular sieve (13.5 g.) followed by triethylamine (11.13 ml.) were added to a stirred solution of L-alanyl-L-proline ethanesulphonamide trifluoroacetate (31.1 g.) in ethanol (450 ml.). Ethyl 2-oxo-4-phenylbutyrate (41.0 g.) was then added and the mixture was stirred at laboratory temperature for 30 minutes. A solution of sodium cyanoborohydride (7.7 g.) in ethanol (225 ml.) was then added during 15 hours and the mixture was stirred for a further 10 hours, filtered through a filter-aid and the filtrate was evaporated to dryness under reduced pressure. The residue was partitioned between saturated aqueous sodium carbonate solution (1000 ml.) and diethyl ether (1000 ml.) and the aqueous layer was separated, acidified to pH 3 with concentrated aqueous hydrochloric acid and extracted with methylene chloride. The extract was dried and evaporated to dryness under reduced pressure and the residue was purified by chromatography on a silica gel column using a 9:1 v/v mixture of methylene chloride and methanol as eluant. There were thus obtained the mixed isomers of N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline ethanesulphonamide in a ratio (as shown by high pressure liquid chromatography) of approximately 11:9 by weight. The isomers were separated by chromatography on a silica gel column using a 99:1 v/v mixture of ethyl acetate and acetic acid as eluant, and there were thus separately obtained N-[(1R)-1-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-L-proline ethanesulphonamide, and N-[(1S)-1-ethoxycarbonyl-3-phenylpropyl]-L-alanyl-L-proline ethane-sulphonamide, both of which were oils, the structures of which were confirmed by proton magnetic resonance and mass spectroscopy. The isomer initially present as 45% by weight of the mixture was considerably more active as an inhibitor of ACE than the other isomer.

reactant | triethylamine | 11.13 ml | C(C)N(CC)CC | C6H15N
reactant | L-alanyl-L-proline ethanesulphonamide trifluoroacetate | 31.1 g | FC(C(=O)O)(F)F.C(C)S(=O)(=O)N.N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1
reactant | Ethyl 2-oxo-4-phenylbutyrate | 41.0 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | 7.7 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 450 ml | C(C)O | C2H6O
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-L-proline ethanesulphonamide | C(C)S(=O)(=O)N.C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C20H28N2O5.C2H7NO2S/c1-3-27-20(26)16(12-11-15-8-5-4-6-9-15)21-14(2)18(23)22-13-7-10-17(22)19(24)25;1-2-6(3,4)5/h4-6,8-9,14,16-17,21H,3,7,10-13H2,1-2H3,(H,24,25);2H2,1H3,(H2,3,4,5)/t14-,16?,17-;/m0./s1
